US04140775
In the manner given in Example 1B, 1-(m-methoxyphenyl)-4-(p-nitrobenzyl)piperazine is reduced with aqueous titanium trichloride to give 1-(m-methoxyphenyl)-4-[(4-aminophenyl)methyl]piperazine.

reactant | 1-(m-methoxyphenyl)-4-(p-nitrobenzyl)piperazine | COC=1C=C(C=CC1)N1CCN(CC1)CC1=CC=C(C=C1)[N+](=O)[O-] | C18H21N3O3
catalyst | titanium trichloride | [Cl-].[Cl-].[Cl-].[Ti+3]
product | 1-(m-methoxyphenyl)-4-[(4-aminophenyl)methyl]piperazine | COC=1C=C(C=CC1)N1CCN(CC1)CC1=CC=C(C=C1)N | C18H23N3O
